US06979696B2
Hydrogen chloride gas was bubbled through a cold (0° C.) suspension of (6-Bromo-5-fluoro-1-methanesulfonyl-1H-indol-3-yl)-acetonitrile (0.215 g, 0.65 mmol) in anhydrous ethanol (20 ml) for 15 minutes. The reaction mixture was refrigerated for 72 hours and the solvent was removed under reduced pressure. The solid residue was re-dissolved in anhydrous methanol (10 ml), and ethylene diamine (0.05 ml, 0.77 mmol) was added. The reaction mixture was heated to reflux for 24 hours and the solvent was removed under reduced pressure. The resulting residue was purified by flash column chromatography over silica gel eluting with 7% methanol in dichloromethane with 0.1% concentrated ammonium hydroxide to give 6-Bromo-3-(4,5-dihydro-1H-imidazol-2-ylmethyl)-5-fluoro-1-methanesulfonyl-1H-indole, which was recrystallized from methanol and ether (0.133 g, 55%). 1H NMR (DMSO) d: 3.56 (s, 3H), 3.82(s, 4H), 4.07 (s, 2H), 7.84 (s, 1H), 7.90 (d, 1H, J=9.1 Hz), 8.10 (d, 1H, J=5.8 Hz), 10.23 (bs, 1H). M+H: 374.

reactant | Hydrogen chloride | Cl | ClH
reactant | (6-Bromo-5-fluoro-1-methanesulfonyl-1H-indol-3-yl)-acetonitrile | 0.65 mmol, 0.215 g | BrC1=C(C=C2C(=CN(C2=C1)S(=O)(=O)C)CC#N)F | C11H8BrFN2O2S
reactant | ethylene diamine | 0.77 mmol, 0.05 ml | C(CN)N | C2H8N2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6-Bromo-3-(4,5-dihydro-1H-imidazol-2-ylmethyl)-5-fluoro-1-methanesulfonyl-1H-indole | BrC1=C(C=C2C(=CN(C2=C1)S(=O)(=O)C)CC=1NCCN1)F | C13H13BrFN3O2S
